US06384080B1
A mixture of 2-(cyclopentylamino)-N-(4-ethoxycarbonylbenzyl)-5-nitrobenzamide (645 mg), ethanol (30 mL) and 1N-sodium hydroxide solution (5 mL) was heated for 2 hours under reflux. The mixture was acidified with 1 N-hydrochloric acid to pH 4 and the organic solvent was removed by evaporation. The resulting precipitates were collected by filtration and washed with water and diethyl ether to give N-(4-carboxybenzyl)-2-(cyclopentylamino)-5-nitrobenzamide as yellow powders (541 mg).

reactant | 2-(cyclopentylamino)-N-(4-ethoxycarbonylbenzyl)-5-nitrobenzamide | 645 mg | C1(CCCC1)NC1=C(C(=O)NCC2=CC=C(C=C2)C(=O)OCC)C=C(C=C1)[N+](=O)[O-] | C22H25N3O5
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | N-(4-carboxybenzyl)-2-(cyclopentylamino)-5-nitrobenzamide | 541 mg | C(=O)(O)C1=CC=C(CNC(C2=C(C=CC(=C2)[N+](=O)[O-])NC2CCCC2)=O)C=C1 | C20H21N3O5
